US05464781
Ethyl 2-(ethoxymethylene)-3-oxohexanoate (22.4 g) was added to a suspension of 5-ethoxy-6-methylpyridin-2-amine (14.9 g) in IMS (50 ml). After the initial exotherm had subsided IMS (100 ml) was added and the mixture boiled under reflux until a solution was obtained. This solution was cooled and filtered to give ethyl 2-(5-ethoxy-6-methylpyrid-2-ylaminomethylene)-3-oxohexanoate, m.p. 117°-120° C.

reactant | Ethyl 2-(ethoxymethylene)-3-oxohexanoate | 22.4 g | C(C)OC=C(C(=O)OCC)C(CCC)=O | C11H18O4
reactant | 5-ethoxy-6-methylpyridin-2-amine | 14.9 g | C(C)OC=1C=CC(=NC1C)N | C8H12N2O
product | ethyl 2-(5-ethoxy-6-methylpyrid-2-ylaminomethylene)-3-oxohexanoate | C(C)OC=1C=CC(=NC1C)NC=C(C(=O)OCC)C(CCC)=O | C17H24N2O4
